US08981085B2
NaH (738 mg, 18.44 mmol; 60% dispersion in oil) was added to a solution of methyl 1-hydroxycyclopropanecarboxylate (1.83 g, 14.18 mmol) in anhydrous THF (15 mL) cooled on an ice bath. The mixture was stirred for 15 minutes then iodomethane (3.22 g, 1.42 mL, 22.69 mmol) was added slowly, and the resulting mixture stirred at ambient temperature for 18 hours. The reaction mixture was quenched with ammonium chloride and extracted with EtOAc (3×20 mL). The combined organic extracts were washed with water, dried over MgSO4, and filtered. The filtrate was evaporated under reduced pressure to give methyl 1-methoxycyclopropanecarboxylate. An aqueous 6N NaOH solution (4 mL) was added to a solution of methyl 1-methoxycyclopropanecarboxylate (1.08 g, 8.3 mmol) in anhydrous THF (5 mL). The mixture was stirred at room temperature for 18 hours, then acidified with aqueous 6N HCl and extracted with EtOAc (3×15 mL). The combined organic layer was dried over MgSO4, filtered and concentrated to give 1-methoxycyclopropanecarboxylic acid (892 mg, 54% yield) as an oil. 1H NMR (400 MHz, (CD3)2SO) δ 12.40 (br s, 1H), 3.30 (s, 3H), 1.15-1.10 (m, 2H), 1.08-1.04 (m, 2H).

reactant | NaH | 18.44 mmol, 738 mg | [H-].[Na+]
reactant | methyl 1-hydroxycyclopropanecarboxylate | 14.18 mmol, 1.83 g | OC1(CC1)C(=O)OC | C5H8O3
reactant | iodomethane | 22.69 mmol, 1.42 mL, 3.22 g | IC | CH3I
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | methyl 1-methoxycyclopropanecarboxylate | COC1(CC1)C(=O)OC | C6H10O3
